US07763657B2
Step 2: N-[4-(aminomethyl)-2-vinylphenyl]methanesulfonamide
tert-butyl N-[4-(methanesulfonylamino)-3-vinylbenzyl]carbamate (100 mg, 0.23 mmol) and TFA (0.4 ml) were added in methylene chloride (2 mL). The reaction mixture was stirred overnight at room temperature. The reaction mixture was concentrated in vacuo to yield title compound (100%).

reactant | tert-butyl N-[4-(methanesulfonylamino)-3-vinylbenzyl]carbamate | 0.23 mmol, 100 mg | CS(=O)(=O)NC1=C(C=C(CNC(OC(C)(C)C)=O)C=C1)C=C | C15H22N2O4S
reactant | TFA | 0.4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(aminomethyl)-2-vinylphenyl]methanesulfonamide | 100% | NCC1=CC(=C(C=C1)NS(=O)(=O)C)C=C | C10H14N2O2S
